US09359364B2
A portion of 1-ethyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one (1 equiv), 3-bromo-2-methyl-6-(1-(tetrahydro-2H-pyran-2-yl)-1H-1,2,4-triazol-3-yl)pyridine (0.95 equiv), potassium hydrogen carbonate (2.3 equiv), and PdCl2 Amphos2 (0.001 equiv) were treated with a mixture of tetrahydrofuran and water, and the reaction mixture was heated to 55° C. The reaction mixture was cooled and the organic layer was treated with activated carbon at ambient temperature and filtered. The filtrate was distilled to 70% of its original volume, cooled, treated with water, seeded, and treated with additional water. The solids were filtered and washed with tetrahydrofuran/water and dried to obtain 1-ethyl-7-(2-methyl-6-(1-(tetrahydro-2H-pyran-2-yl)-1H-1,2,4-triazol-3-yl)pyridin-3-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one as a solid.

reactant | 1-ethyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 1 equiv | C(C)N1C(CNC=2C1=NC(=CN2)B2OC(C(O2)(C)C)(C)C)=O | C14H21BN4O3
reactant | 3-bromo-2-methyl-6-(1-(tetrahydro-2H-pyran-2-yl)-1H-1,2,4-triazol-3-yl)pyridine | 0.95 equiv | BrC=1C(=NC(=CC1)C1=NN(C=N1)C1OCCCC1)C | C13H15BrN4O
reactant | potassium hydrogen carbonate | 2.3 equiv | C(O)([O-])=O.[K+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | PdCl2 | Cl[Pd]Cl
solvent | water | O | H2O
product | 1-ethyl-7-(2-methyl-6-(1-(tetrahydro-2H-pyran-2-yl)-1H-1,2,4-triazol-3-yl)pyridin-3-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | C(C)N1C(CNC=2C1=NC(=CN2)C=2C(=NC(=CC2)C2=NN(C=N2)C2OCCCC2)C)=O | C21H24N8O2
